datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[O:10][H].CC[NH+:21]=[C:20]([O][H])[O][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]CC)([O][H])[O][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C(C)=C(C)C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])/C(C)=C(C)\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OC)C)[H]>>C1(C(O[C:20]([O-:10])([O:21]C1C)OC)C)[H] 21=20;20,10=10"
"[O-:10]C(C(C=CC=C9)=C9[C:20](OC)=[O:21])C>>[O-:21][C:20]2([O:10]C(C7=C2C=CC=C7)C)OC 10=20;20,21=21"
"[O:10]([Na])C([H])C(C)N([C:20]([H])=[O:21])[H]>>[O-:21][C:20]1([H])[O+:10]([Na])C([H])C(C)N1[H] 10=20;20,21=21"
"[H][NH:10]C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[O-:10]C(CCC)/C([H])=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[O:10]C(CCC)C([H])=C1C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C([H])C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C([H])/C([H])=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:10](C(C)C([H])[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[O:10]([K])C([H])C(C)C([H])C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[OH:10]C(CCC)C(C)C([H])C(O)[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(O)C([H])C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)=C(C)C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)/C(C)=C(C)\C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[O:10]([Na])C(CCC)C(C)C([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[O+:10]([Na])C(CCC)C(C)C1C 10=20;20,21=21"
"C1=CC=CC=C1[O+:10]([K])[C:21]([O-:20])(OCCCCCC)OCCCCCC>>[O:20]=[C:21](OCCCCCC)OCCCCCC.C1=CC=CC=C1[O:10][K] 20=21;21,10=10"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[NH:10](C)C(C)/C([H])=C(C)\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)=C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"CCCCCC[O+:10]([Na])[C:21]([O-:20])(OCCCCCC)OC1=CC=CC=C1>>[O:20]=[C:21](OCCCCCC)OC1=CC=CC=C1.CCCCCC[O:10][Na] 20=21;21,10=10"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C([H])C(C)C([H])C(CCC)[OH+:10]1>>[OH:10]C(CCC)C([H])C(C)C([H])[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[NH:10](C)C(CC)C([H])C(C)C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C(C)C([H])C(CC)[NH+:10]1(C) 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C([H])[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C([H])[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:10]C(C)C(C)C(O)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(O)C(C)C(C)[O:10]1 10=20;20,21=21"
"CC[NH:10][H].CC[NH+:21]=[C:20]([O]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]CC)([O]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(C)C([H])C([H])[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
